US05312828
A solution of methyl 3-acetoxy-3-[2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-yl]-2-(3,4-methylenedioxyphenyl)methylpropanoate (1.36 g, 2.58 mmol), 1,8-diazobicyclo[5,4,0]undec-7-ene (1 mL, 6.48 mmol) and toluene (10 mL) was heated at 90 ° C. for 18 hours under argon. The cooled reaction mixture was diluted with ether, the solution was filtered and the filtrate was concentrated. Chromatography of the product over silica gel with a gradient of ethyl acetate in hexane provided 1.1 g (87%) of methyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5yl]-2-(3,4-methylenedioxyphenyl)methyl-2-propenoate as a low melting solid whose NMR showed the E or trans relationship of the ester group to the imidazole ring.

reactant | methyl 3-acetoxy-3-[2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-yl]-2-(3,4-methylenedioxyphenyl)methylpropanoate | 2.58 mmol, 1.36 g | C(C)(=O)OC(C(C(=O)OC)CC1=CC2=C(C=C1)OCO2)C2=CN=C(N2CC2=C(C=CC=C2)Cl)CCCC | C28H31ClN2O6
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | methyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5yl]-2-(3,4-methylenedioxyphenyl)methyl-2-propenoate | 1.1 g, 87% | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)OC)\CC1=CC2=C(C=C1)OCO2)CC2=C(C=CC=C2)Cl | C26H27ClN2O4
